US05424433
A solution of 1-benzyl-4-piperidone (26.8 g, 0.14 mole) and pyrrolidine (20 g, 0.28 mole) in toluene (300 ml) is refluxed for 4 hours with distilling off water. The reaction solution is concentrated to dryness under reduced pressure, and to the residue is added anhydrous dioxane (300 ml). To the mixture is added dropwise gradually with stirring a solution of ethoxymethylenemalononitrile (19 g, 0.16 mole) in anhydrous dioxane (40 ml) under ice-cooling. The mixture is warmed to room temperature, and stirred for one hour. To the mixture is added ammonium acetate (22 g, 0.29 mole), and the mixture is stirred at 70° C. overnight, and concentrated to dryness under reduced pressure. To the residue is added isopropanol, and the precipitate crystals are collected by filtration, washed with water, and dried to give 2-amino-6-benzyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carbonitrile (18.3 g, yield; 49%), which is used in the subsequent reaction without purification.

reactant | 1-benzyl-4-piperidone | 0.14 mole, 26.8 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | pyrrolidine | 0.28 mole, 20 g | N1CCCC1 | C4H9N
reactant | ethoxymethylenemalononitrile | 0.16 mole, 19 g | C(C)OC=C(C#N)C#N | C6H6N2O
reactant | ammonium acetate | 0.29 mole, 22 g | C(C)(=O)[O-].[NH4+]
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 2-amino-6-benzyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carbonitrile | 18.3 g, yield; 49% | NC1=NC=2CCN(CC2C=C1C#N)CC1=CC=CC=C1 | C16H16N4
